US08664216B2
a) (4-Phenyl-piperidin-4-yl)-methanol
To a solution of 4-phenyl-4-piperidinecarboxylic acid 4-toluene-sulfonate (2.0 g, 5.3 mmol) in dry tetrahydrofuran (10 ml) was added 1 M lithium aluminum hydride solution in tetrahydrofuran at 0° C. The reaction mixture was heated at reflux for 90 min. After cooling to 0° C. water (0.4 ml), 2 M aqueous sodium hydroxide solution (0.6 ml) and water (0.8 ml) were added consecutively. The white suspension was stirred for 10 min and diluted with tetrahydrofuran (40 ml). After addition of anhydrous sodium sulfate (18 g) the suspension was stirred for further 10 min. The precipitate was removed by filtration and the filtrate was concentrated in vacuo to give the crude title compound (0.65 g, 64%) as white solid.

reactant | 4-phenyl-4-piperidinecarboxylic acid 4-toluene-sulfonate | 5.3 mmol, 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 M, 0.6 ml | [OH-].[Na+]
reactant | sodium sulfate | 18 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 0.8 ml | O | H2O
solvent | water | 0.4 ml | O | H2O
product | (4-Phenyl-piperidin-4-yl)-methanol | 0.65 g, 64% | C1(=CC=CC=C1)C1(CCNCC1)CO | C12H17NO
